data/mechanisms/records/IMS8-EQ8.2i.json
{"mechanism_id": "IMS8-EQ8.2i", "species": [{"species_id": "acetone_enol_radical_cation", "mapped_smiles": "[CH2:4]=[C:5]([CH3:7])[O+:6][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetyl_cation", "mapped_smiles": "[CH3:7][C:5]#[O+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH2:4][1H:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["acetone_enol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acetyl_cation", "methyl_radical"]}], "steps": [{"step_id": "step_rH_2_0", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [4, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [6, 8]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_2_0", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 2.0, rH (secondary: acetone enol+. -> CH3CO+ + .CH3)"}, "confidence": 0.75, "curator_note": "Secondary fragmentation of the m/z-58 acetone enol radical cation: an H-rearrangement ('rH') tautomerises it (O-H hydrogen H8 migrates from O6 back onto the terminal C4) and a methyl radical is lost, giving the acetylium CH3-C#O+ (m/z 43). No abundance % is printed for this arrow (dHf only). This is the enol-ion -> acetone-ketone-ion -> acylium + .CH3 route drawn as a single arrow; the intermediate acetone radical cation is NOT drawn, so it is not added as a state. Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. FIVE fishhooks producing the drawn O-centred enol -> acylium change: move<1> (2e) the C4=C5 pi pair captures the incoming H8 as the new C4-H8 bond; move<2> (2e) the O6-H8 pair feeds into the forming C5#O6+ triple bond; move<3> one C4-C5 (sigma) electron becomes the radical on the departing methyl C4; move<4> the other C4-C5 electron feeds the C5#O6+ bond; move<5> the O6 odd electron completes the C5#O6+ triple bond. Net: H8 relocates O6->C4, C4 leaves as .CH3, and C5-O6 goes single->triple."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43", "species_id": "acetyl_cation", "step_id": "step_rH_2_0", "observed_mz": 43.0178, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
